US04771055
3-Methyl-1-(phenylmethyl)-3-pyrrolidinemethanamine
To a solution of 2.0 g (10 mmol) of 3-methyl-1-(phenylmethyl)-3-pyrrolidinecarbonitrile in 40 ml tetrahydrofuran was added 0.38 g (10 mmol) of lithium aluminum hydride in portions under nitrogen. The reaction mixture was stirred at room temperature for 18 hours. To the resulting suspension were added 0.3 ml of water, 0.4 ml of 40% sodium hydroxide, and 1.4 ml of water. The grainy precipitate was filtered and washed with tetrahydrofuran. The combined filtrates were concentrated to yield 1.9 g of the titled compound.

reactant | 3-methyl-1-(phenylmethyl)-3-pyrrolidinecarbonitrile | 10 mmol, 2.0 g | CC1(CN(CC1)CC1=CC=CC=C1)C#N | C13H16N2
reactant | lithium aluminum hydride | 10 mmol, 0.38 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | water | 0.3 ml | O | H2O
reactant | sodium hydroxide | 0.4 ml | [OH-].[Na+]
reactant | water | 1.4 ml | O | H2O
solvent | tetrahydrofuran | 40 ml | O1CCCC1 | C4H8O
product | 3-Methyl-1-(phenylmethyl)-3-pyrrolidinemethanamine | 1.9 g | CC1(CN(CC1)CC1=CC=CC=C1)CN | C13H20N2
